US05786379
(d) Preparation of allyl 4-[3-(1-adamantyl)-4-methoxyethoxymethoxybenzamido]benzoate
700 mg (3.95 mmol) of allyl 4-aminobenzoate, 1 ml (4.3 mmol) of triethylamine and 50 ml of THF were introduced into a round-bottomed flask. A solution of 1.5 g (3.96 mmol) of 3-(1-adamantyl)-4-methoxyethoxymethoxybenzoyl chloride was added dropwise and the mixture was stirred at room temperature for 4 hours. The reaction medium was poured into water and extracted with ethyl ether. The organic phase was separated out after settling had taken place, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a column of silica, eluted with dichloromethane. 1.7 g (83%) of the expected allylic ester was recovered in the form of an oil.

reactant | allyl 4-aminobenzoate | 3.95 mmol, 700 mg | NC1=CC=C(C(=O)OCC=C)C=C1 | C10H11NO2
reactant | triethylamine | 4.3 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | 3-(1-adamantyl)-4-methoxyethoxymethoxybenzoyl chloride | 3.96 mmol, 1.5 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)Cl)C=CC2OCOCCOC | C21H27ClO4
solvent | water | O | H2O
product | allyl 4-[3-(1-adamantyl)-4-methoxyethoxymethoxybenzamido]benzoate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)NC3=CC=C(C(=O)OCC=C)C=C3)C=CC2OCOCCOC | C31H37NO6
